US04562186
3-(4-Chlorobenzoyl)-5-(phenylsulfinyl)methyl-1,2,4-oxadiazole
A solution of 5.8 g of m-chloroperoxybenzoic acid (85%) in 150 ml of CH2Cl2 was added dropwise at -70° under N2 to a solution of 9.0 g of 3-(4-chlorobenzoyl)-5-phenylthiomethyl-1,2,4-oxadiazole in 200 ml of CH2Cl2. The reaction temperature was maintained below -65° by controlling the rate of addition. After stirring further for 30 minutes, the reaction mixture was poured directly into a separatory funnel containing 300 ml of 10% Na2S2O3 and 600 ml of Et2O. The organics were washed with saturated NaHCO3 and dried over MgSO4. Concentration gave an oil which solidified on standing. Recrystallization from acetone/hexane gave 6.7 g (67%) of needles, m.p. 93°-95°.

reactant | m-chloroperoxybenzoic acid | 5.8 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 3-(4-chlorobenzoyl)-5-phenylthiomethyl-1,2,4-oxadiazole | 9.0 g | ClC1=CC=C(C(=O)C2=NOC(=N2)CSC2=CC=CC=C2)C=C1 | C16H11ClN2O2S
reactant | Na2S2O3 | 300 ml | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | Et2O | 600 ml | CCOCC | C4H10O
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-Chlorobenzoyl)-5-(phenylsulfinyl)methyl-1,2,4-oxadiazole | 6.7 g, 67% | ClC1=CC=C(C(=O)C2=NOC(=N2)CS(=O)C2=CC=CC=C2)C=C1 | C16H11ClN2O3S
